US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and 3,4-methylenedioxybenzeneboronic acid (24.9 mg, 0.15 mmol) gave 4-Benzo[1,3]dioxol-5-yl-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (10.5 mg, 25%) as a white solid. MS m/z 426 (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 3,4-methylenedioxybenzeneboronic acid | 0.15 mmol, 24.9 mg | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
product | 4-Benzo[1,3]dioxol-5-yl-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 10.5 mg, 25% | O1COC2=C1C=CC(=C2)C=2N=C(SC2C(=O)O)N2C=NC1=C2C=C(C(=C1)OC)OC | C20H15N3O6S
